US08119633B2
2-(2-(4-Methoxyphenylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-1-yl)acetic acid S15
A 6 M aqueous NaOH solution was added to a mixture of methyl 2-(2-(4-methoxyphenylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-1-yl)acetate (15.22 g, 40.54 mmol) in THF (200 ml) and water (120 ml), and stirring was carried out overnight at room temperature. The solvent was then removed under reduced pressure, and a 6 M aqueous HCl solution (125 ml) and DCM (400 ml) were added. The phases were separated and then the organic phase was washed with concentrated NaCl solution, dried over sodium sulfate and concentrated. Yield: 14.65 g (100%)

reactant | NaOH | 6 M | [OH-].[Na+]
reactant | methyl 2-(2-(4-methoxyphenylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-1-yl)acetate | 40.54 mmol, 15.22 g | COC1=CC=C(C=C1)S(=O)(=O)N1C(C2=CC=CC=C2CC1)CC(=O)OC | C19H21NO5S
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | water | 120 ml | O | H2O
product | 2-(2-(4-Methoxyphenylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-1-yl)acetic acid | COC1=CC=C(C=C1)S(=O)(=O)N1C(C2=CC=CC=C2CC1)CC(=O)O | C18H19NO5S
